US07985764B2
A 350 mg portion of methyl 3-formyl-1H-indole-5-carboxylate was suspended in 10 ml of methanol, and 90 mg of sodium borohydride was added at 0° C., followed by stirring at room temperature for 30 minutes. After evaporation of the solvent, ethyl acetate and water were added thereto, and the ethyl acetate layer was washed with water and saturated brine and then dried over anhydrous sodium sulfate. By evaporating the solvent under a reduced pressure, 337 mg of methyl 3-(hydroxymethyl)-1H-indole-5-carboxylate was obtained as a colorless solid.

reactant | methyl 3-formyl-1H-indole-5-carboxylate | C(=O)C1=CNC2=CC=C(C=C12)C(=O)OC | C11H9NO3
reactant | sodium borohydride | 90 mg | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | methyl 3-(hydroxymethyl)-1H-indole-5-carboxylate | 337 mg | OCC1=CNC2=CC=C(C=C12)C(=O)OC | C11H11NO3
